US04022794
Step A-3. Preparation of 3(S)-Benzyloxy-1-octanol
A solution of borontrifluoride. etherate (2.1ml.; 16.7 millimole) in dry tetrahydrofuran (5 ml.) is added dropwise to a stirred mixture of 3(S)-benzyloxy-1-octene (2.19 g., 10 millimole) and sodium borohydride (0.47 g., 12.5 millimole) in dry tetrahydrofuran (25 ml.) maintained at 0° to 5° C. under a nitrogen atmosphere. The resulting reaction mixture is warmed to and maintained at room temperature for 15 hours. After cooling to 0° to 5° C., the reaction mixture is treated cautiously via successive dropwise additions with water (2 ml.), 5N sodium hydroxide (4 ml.) and 30% hydrogen peroxide (8 ml.). After stirring at room temperature for 1/2 hour, the resulting mixture is diluted with ice water and extracted with chloroform three times. The combined organic extract is washed with saturated aqueous brine, dried over magnesium sulfate, and filtered. Evaporation of the filtrate in vacuo provides the title compound as a viscous oil (2.37 g., 100%).

reactant | borontrifluoride | B(F)(F)F | BF3
reactant | 3(S)-benzyloxy-1-octene | 10 millimole, 2.19 g | C(C1=CC=CC=C1)O[C@H](C=C)CCCCC | C15H22O
reactant | sodium borohydride | 12.5 millimole, 0.47 g | [BH4-].[Na+]
reactant | sodium hydroxide | 5N, 4 ml | [OH-].[Na+]
reactant | hydrogen peroxide | 8 ml | OO | H2O2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | water | 2 ml | O | H2O
product | 3(S)-Benzyloxy-1-octanol | 2.37 g, 100% | C(C1=CC=CC=C1)O[C@H](CCO)CCCCC | C15H24O2
